US08536165B2
A. 2,3-dibromo-5-nitropyridine
A mixture of 3-bromo-5-nitropyridin-2-ol, POBr3 and PBr3 was heated at 120° C. for 3.5 h. The crude mixture was poured into a mixture of ice and water and extracted with DCM. The crude mixture was purified by flash chromatography over SiO2 eluting with hexane/ethyl acetate mixtures affording 2.63 g (yield 73%) of the expected product.

reactant | 3-bromo-5-nitropyridin-2-ol | BrC=1C(=NC=C(C1)[N+](=O)[O-])O | C5H3BrN2O3
reactant | POBr3 | P(=O)(Br)(Br)Br | Br3OP
reactant | PBr3 | P(Br)(Br)Br | Br3P
solvent | water | O | H2O
product | 2,3-dibromo-5-nitropyridine | 2.63 g, yield 73% | BrC1=NC=C(C=C1Br)[N+](=O)[O-] | C5H2Br2N2O2
